US06211234B1
A solution of ethyl (RS)-4-(2-methylphenyl)-4-[2-methylthio-5-(3-thienylmethoxy)phenoxy]butanoate in acetone (20 mL), at 0° C. is treated dropwise with a solution of potassium peroxymonosulphate (1.01 g of commercial 2KHSO5:KHSO4:K2SO4). The reaction mixture is stirred at 0° C. for 20 minutes, then treated with saturated aqueous sodium bisulphate solution (20 mL), and extracted with dichloromethane (2×50 mL). The combined organic extracts are dried over magnesium sulphate, filtered and concentrated in vacuo, to give ethyl (RS,RS)-4-(2-methylphenyl)-4-[2-methyl-sulphinyl-5-(3-thienylmethoxy)phenoxy)-butanoate (0.75 g) in the form of a yellow oil.

reactant | ethyl (RS)-4-(2-methylphenyl)-4-[2-methylthio-5-(3-thienylmethoxy)phenoxy]butanoate | CC1=C(C=CC=C1)C(CCC(=O)OCC)OC1=C(C=CC(=C1)OCC1=CSC=C1)SC | C25H28O4S2
reactant | potassium peroxymonosulphate | 1.01 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | sodium bisulphate | 20 mL | S([O-])(O)(=O)=O.[Na+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | ethyl (RS,RS)-4-(2-methylphenyl)-4-[2-methyl-sulphinyl-5-(3-thienylmethoxy)phenoxy)-butanoate | 0.75 g | CC1=C(C=CC=C1)C(CCC(=O)OCC)OC=1C(C(C=C(C1)OCC1=CSC=C1)=S=O)C | C25H28O5S2
